US08278336B2
(2-chloro-6-methoxypyridin-4-yl)-(5-fluoro-2,3-dihydroindol-1-yl)-methanone
0.965 g (3.00 mmol) TBTU was added at RT to 0.500 g (2.67 mmol) 2-chloro-6-methoxyisonicotinic acid, 0.366 g (2.67 mmol) 5-fluoroindoline and 0.421 mL (3.00 mmol) triethylamine in 10.0 mL DMF. The mixture was stirred for 2 h at RT and then purified by preparative HPLC. The fractions containing the product were combined and evaporated down i. vac.

reactant | TBTU | 3.00 mmol, 0.965 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 2-chloro-6-methoxyisonicotinic acid | 2.67 mmol | ClC=1C=C(C(=O)O)C=C(N1)OC | C7H6ClNO3
reactant | 5-fluoroindoline | 2.67 mmol, 0.366 g | FC=1C=C2CCNC2=CC1 | C8H8FN
reactant | triethylamine | 3.00 mmol, 0.421 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
product | (2-chloro-6-methoxypyridin-4-yl)-(5-fluoro-2,3-dihydroindol-1-yl)-methanone | ClC1=NC(=CC(=C1)C(=O)N1CCC2=CC(=CC=C12)F)OC | C15H12ClFN2O2
